US06599917B1
f) 2-Bromo-3-benzyl-6-hydroxymethyl-4,5,6,7,-tetrahydrobenzo[b]thiophene
103 mg of N-bromosuccinimide was added little by little to a solution of 5.0 ml of N,N-dimethylformamide containing 136 mg of 3-benzyl-6-(hydroxymethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene under ice-cooling. After stirring for one hour, water was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic phase was washed with water and brine, and the solvent was removed. Then, the residue was subjected to silica gel column chromatography and eluted with hexane and then with hexane/ethyl acetate (2:1), to give 164 mg of the target compound.

reactant | N-bromosuccinimide | 103 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N,N-dimethylformamide | 5.0 ml, 136 mg | CN(C=O)C | C3H7NO
reactant | 3-benzyl-6-(hydroxymethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene | C(C1=CC=CC=C1)C=1C2=C(SC1)CC(CC2)CO | C16H18OS
solvent | water | O | H2O
product | 2-Bromo-3-benzyl-6-hydroxymethyl-4,5,6,7,-tetrahydrobenzo[b]thiophene | 164 mg | BrC1=C(C2=C(S1)CC(CC2)CO)CC2=CC=CC=C2 | C16H17BrOS
